US06441017B1
Step I: (S)-{1-[7-(tert-Butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxo-pyrrolidin-3-yl}-{2-[3-(4-cyano-3-fluorobenzyl)-3H-imidazol-4-yl]ethyl}carbamic Acid tert-Butyl Ester
To a stirred solution of (S)-{1-[7-(tert-butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxo-pyrrolidin-3-yl}-{2-[1-(triphenylmethyl)-1H-imidazol-4-yl]ethyl}carbamic acid tert-butyl ester, as described above in Step G, (720 mg, 0.785 mmol) and 4-cyano-3-fluorobenzyl alcohol, as described above in Step H, (142 mg, 0.940 mmol) in dry CH2Cl2 (7 mL) were added N,N-diisopropylethylamine (0.342 mL, 1.96 mmol), followed by trifluoromethanesulfonic anhydride (0.158 mL, 0.940 mmol), dropwise. The reaction mixture was allowed to warm slowly to ambient temperature and was stirred for 18 hours, then concentrated in vacuo. The residue was dissolved in MeOH (25 mL) and the resulting solution was stirred at ambient temperature for 18 hours. The solvent was evaporated under reduced pressure, and the residue was partitioned between saturated aqueous NaHCO3 (5 mL) and CHCl3 (20 mL). The aqueous layer was extracted further with CHCl3 (20 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with EtOAc—1% MeOH—0.1% NH4OH to yield the desired product as a pale foam.

reactant | (S)-{1-[7-(tert-butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxo-pyrrolidin-3-yl}-{2-[1-(triphenylmethyl)-1H-imidazol-4-yl]ethyl}carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C@@H]1C(N(CC1)C1=CC=CC2=CC=C(C=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O)=O | C59H60N4O4Si
reactant | 4-cyano-3-fluorobenzyl alcohol | C(#N)C1=C(C=C(CO)C=C1)F | C8H6FNO
reactant | N,N-diisopropylethylamine | 1.96 mmol, 0.342 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.940 mmol, 0.158 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | (S)-{1-[7-(tert-Butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxo-pyrrolidin-3-yl}-{2-[3-(4-cyano-3-fluorobenzyl)-3H-imidazol-4-yl]ethyl}carbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(N(CCC=1N(C=NC1)CC1=CC(=C(C=C1)C#N)F)[C@@H]1C(N(CC1)C1=CC=CC2=CC=C(C=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O)=O | C48H50FN5O4Si
